US04032527
A mixture of 2-(2-methyl-4-(diethylamino)benzoyl)3,4,5,6-tetrachlorobenzoic acid (44.9 g.), N,N,N',N'-tetraethyl-m-phenylenediamine (29.7 g.) and acetic anhydride (50 ml.) was heated (at 85°- 90° C.) during three hours. The resulting crystalline product was washed with methanol, slurried in hot ethanol and washed again with methanol, affording 3-(2,4-bis(diethylamino)phenyl)-3-(2-methyl-4-(diethylamino)phenyl)-4,5,6,7-tetrachlorophthalide (I: X= Y4 = (CH3CH2)2N, Y2 = CH3, Z4 = Z5 = Z6 = Z7 = Cl) (34. 1 g., m.p. 162°- 164° C.).

reactant | 2-(2-methyl-4-(diethylamino)benzoyl)3,4,5,6-tetrachlorobenzoic acid | 44.9 g | CC1=C(C(=O)C2=C(C(=O)O)C(=C(C(=C2Cl)Cl)Cl)Cl)C=CC(=C1)N(CC)CC | C19H17Cl4NO3
reactant | N,N,N',N'-tetraethyl-m-phenylenediamine | 29.7 g | C(C)N(C1=CC(=CC=C1)N(CC)CC)CC | C14H24N2
solvent | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(2,4-bis(diethylamino)phenyl)-3-(2-methyl-4-(diethylamino)phenyl)-4,5,6,7-tetrachlorophthalide | 1 g | C(C)N(C1=C(C=CC(=C1)N(CC)CC)C1(OC(=O)C2=C(C(=C(C(=C12)Cl)Cl)Cl)Cl)C1=C(C=C(C=C1)N(CC)CC)C)CC | C33H39Cl4N3O2
